US08003649B2
N-(2-methoxyethyl)methylamine (25 mg, 0.28 mmol) was added to 2-[4-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetic acid (100 mg, 0.24 mmol), HATU (108 mg, 0.28 mmol) and DIPEA (0.124 mL, 0.71 mmol) in DMF (2 mL). The resulting solution was stirred at ambient temperature for 3 hours then purified by preparative HPLC (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to give N-(2-methoxyethyl)-N-methyl-2-[4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetamide (26 mg, 22%).

reactant | N-(2-methoxyethyl)methylamine | 0.28 mmol, 25 mg | COCCNC | C4H11NO
reactant | 2-[4-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetic acid | 0.24 mmol, 100 mg | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(OCC(=O)O)C=C2)(F)F | C19H18F3N5O3
reactant | HATU | 0.28 mmol, 108 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.71 mmol, 0.124 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(2-methoxyethyl)-N-methyl-2-[4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetamide | 26 mg, 22% | COCCN(C(COC1=CC=C(C=C1)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)=O)C | C23H27F3N6O3
